US05053514
To a solution of 6-hydroxycarbostyril (1.6 g) and sodium hydride (50% oily) (1 g) in dimethylformamide (30 ml), 1-chloro-2-hydroxy-3-(N-methyl-N-benzylamino)propane (2.2 g) is added dropwise at room temperature. After the addition, the mixture is heated with stirring at 70°-80° C. for 3 hours. The reaction mixture is poured into water and extracted with chloroform, and the extract is dried over magnesium sulfate. Chloroform is distilled off and the resulting residue is purified by silica gel column chromatography (solvent; methanol:chloroform=1:100-1:25) and recrystallized from ethanol to give 6-[3-(N-methyl-N-benzylamino)-2-hydroxypropoxy]carbostyril (0.76 g), as white powder, m.p. 129°-132° C.

reactant | 6-hydroxycarbostyril | 1.6 g | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | 1-chloro-2-hydroxy-3-(N-methyl-N-benzylamino)propane | 2.2 g | ClCC(CN(CC1=CC=CC=C1)C)O | C11H16ClNO
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-[3-(N-methyl-N-benzylamino)-2-hydroxypropoxy]carbostyril | 0.76 g | CN(CC1=CC=CC=C1)CC(COC=1C=C2C=CC(NC2=CC1)=O)O | C20H22N2O3
